US06887896B1
Ethyl (2E,4E,6E)-7-(4-chloro-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6 dihydronaphthalen-2-yl)-6-fluoro-3-methyl-nona-2,4,6-trienoate (Compound A-167)
Following General Procedure I-1, ethyl 4-(diethoxyphosphoryl)-3-methyl-but-2E-enoate (139 mg, 0.53 mmol) and (2E)-3-(4-chloro-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-2-fluoro-pent-2-enal (Compound A-156, 32 mg, 0.09 mmol) were reacted to give the title compound as a colorless oil after purification by column chromatography (silica gel, 1% to 2% ethyl acetate in hexane).

reactant | ethyl 4-(diethoxyphosphoryl)-3-methyl-but-2E-enoate | 0.53 mmol, 139 mg | C(C)OP(=O)(OCC)C/C(=C/C(=O)OCC)/C | C11H21O5P
reactant | (2E)-3-(4-chloro-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-2-fluoro-pent-2-enal | 0.09 mmol, 32 mg | ClC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)/C(=C(\C=O)/F)/CC)OCC | C22H28ClFO2
product | Ethyl (2E,4E,6E)-7-(4-chloro-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6 dihydronaphthalen-2-yl)-6-fluoro-3-methyl-nona-2,4,6-trienoate | ClC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)/C(=C(\C=C\C(=C\C(=O)OCC)\C)/F)/CC)OCC | C29H38ClFO3
